US04760163
using 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoic acid via the corresponding acid chloride and tert.butanol there is obtained tert.butyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 189°-191° C.,

reactant | 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)N1C(N(C2=C(C1=O)CCC2)C)=O | C15H13ClN2O4
solvent | tert.butanol | C(C)(C)(C)O | C4H10O
product | tert.butyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OC(C)(C)C)C=C(C=C1)N1C(N(C2=C(C1=O)CCC2)C)=O | C19H21ClN2O4
